US04348322
To a stirred solution of 4-(4-chlorophenyl)benzaldehyde (2.16 g.) and 2-hydroxy-2-phenylbutyric acid (1.8 g.) in anhydrous diethyl ether (50 ml.) was added boron trifluoride etherate (2.2 g.). After stirring at room temperature for 12 hours, the solution was washed with 10% w/v sodium acetate solution (2×20 ml.) and then with water (2×20 ml.) and dried (Na2SO4). The solution was filtered and evaporated to give an oil which on crystallisation from methanol gave 2-[4-(4-chlorophenyl)phenyl]-5-ethyl-5-phenyl-1,3-dioxolan-4-one (1.7 g.) m.p. 80°-83° C.

reactant | 4-(4-chlorophenyl)benzaldehyde | 2.16 g | ClC1=CC=C(C=C1)C1=CC=C(C=O)C=C1 | C13H9ClO
reactant | 2-hydroxy-2-phenylbutyric acid | 1.8 g | OC(C(=O)O)(CC)C1=CC=CC=C1 | C10H12O3
reactant | boron trifluoride etherate | 2.2 g | B(F)(F)F.CCOCC
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-[4-(4-chlorophenyl)phenyl]-5-ethyl-5-phenyl-1,3-dioxolan-4-one | 1.7 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C1OC(C(O1)=O)(C1=CC=CC=C1)CC | C23H19ClO3
